US05965591
3-(2-Aminoethoxy)-5-acetoxy-1,2-benzisoxazole hydrochloride
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-hydroxy-1,2-benzisoxazole (100 mg) in tetrahydrofuran (5 ml) was added triethylamine (44 mg) and acetyl chloride (34 mg) with stirring at 5° C., and the mixture was then stirred at the same temperature for 15 minutes. The reaction mixture was poured into ice water (40 ml), extracted with ethyl acetate (twice each with 40 ml) and the combined extracts were dried over anhydrous magnesium sulphate and filtered. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (9/1) as an eluent, to give the title compound (101 mg, 88%) as a colorless powder.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-5-hydroxy-1,2-benzisoxazole | 100 mg | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C=C(C=C2)O | C14H18N2O5
reactant | triethylamine | 44 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 34 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(2-Aminoethoxy)-5-acetoxy-1,2-benzisoxazole hydrochloride | 101 mg, 88% | Cl.NCCOC1=NOC2=C1C=C(C=C2)OC(C)=O | InChI=1S/C11H12N2O4.ClH/c1-7(14)16-8-2-3-10-9(6-8)11(13-17-10)15-5-4-12;/h2-3,6H,4-5,12H2,1H3;1H
